Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"My friends brought me in last night." 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
History of Present Illness:
Ms. ___ is a ___ y/o ___ student who lives on campus with a
roommate, with no known past psychiatric or medical history, who
was brought to the BI ED by her friends while intoxicated on
alcohol for concerns of depression and SI.

On interview, the patient reports that for the past 6 weeks or
so, she has been feeling "not like myself". She states she has
been feeling down for no particular reason that she can 
identify,
and has been "closing friends off." She also endorses sleeping 8
hours at night and 4 during the day and still feeling fatigued,
poor appetite with a weight loss of 10 lbs, and thinking 
negative
thoughts about herself, as well as often being tearful. She 
notes
that she is able to enjoy spending time with friends at times.
She denies feeling hopeless and reports that the suicidal
thoughts she had with plan to overdose while she was drunk are
gone now. She reports that she did try to see a counselor at
school (a sports psychologist) given her symptoms of depression,
but only had one appointment so far. She notes that she used to
play Rugby at school but had to stop in the fall given her
development of bilateral compartment syndrome in her lower
extremities necessitating corrective surgery. She thinks her not
playing rugby anymore may have something to do with her
depressive symptoms. She also endorses "generalized anxiety",
with her feeling constantly anxious about school and her 
friends.

 According to initial ED Psychiatry Note on ___ ___ ___, "she reported that she didn't know why her friends
brought her in tonight.  They were out drinking and someone then
drove her to the BI.  She was unable to give names for her
friends but would be willing to have interviewer contact them in
the morning as she doesn't want to wake them up.  Her family is
in ___ and she did not agree to have her parents contacted.  She
did report going to ___ yesterday when
asked about seeing a psychiatrist.  She said her athletic 
trainer
 asked her to go but was unable to say what the concern was.  On
ROS patient endorsed depressed mood, some weight loss, sleeping
too much and passive SI.  Denied AVH, manic symptoms and
paranoia.  Reports she is doing well in classes and able to 
focus
as well as have fun with her friends."

 Course in the Emergency Department:
 BAL 105
 Behavior: tried to elope from the ED and was briefly in
restraints.
 Home meds prior to ED: none
 Medications shown on ED ___:
 ___ 00:36 IM Haloperidol 5 mg  
 ___ 01:08 IM Lorazepam 2 mg  
 ___ 01:08 IM Haloperidol 5 mg 

 On psych ROS, denies manic symptoms including grandiosity or
decreased need for sleep, denies psychotic symptoms including no
AVH or paranoid or delusional thought content, endorses anxiety
about everything including friends, school, etc., denies a
history of self-harming behavior or eating disorder symptoms,
depressive symptoms as per HPI. 

 Collateral:
 Per Psychiatry ED Moonlight Initial Consult Note on ___ by
Dr. ___:
 "Spoke with patient's friend ___ (___)
 Patient has had a lot of stress with classes and surgery for 
her
compartment syndrome. Talking with family had been stressing her
out. She hasn't been herself since she had her surgery back in
___. Patient has one roommate, sharing a studio, and
___ doesn't think that the roommate knows about these issues.

 Her concern re: ___ started 2 weekends ago, out, and patient 
had
been drinking, but still reportedly "with it," and patient was
endorsing passive SI of "not wanting to be alive anymore." She
was asking "everyone" for fentanyl to be "put down." ___
doesn't think that she truthfully has an active plan, but is
 concerned that she may eventually act on ___ is also
concerned that patient has been hinting that she is "out of
options" and that this is a "good alternative." She doesn't
believe in getting help for mental health seeing this depression
as a "predetermined" path.  

Friend reports some stressors between mother and patient, mother
is in the army and may be less understanding about mental health
issues. Father and pt are quite close.

 Spoke with Father, ___. Patient had called him to
tell him that I would call her "to tell him everything that
happened." She would not tell him anything herself about how she
was feeling
 or why she was in the ED. Father states that she had a panic
attack 1 x in HS, but has never had this issue before. He said
that she's generally the stable kid who's "taking care of
everyone else" and has never been depressed nor endorsed SI. She
had not been confiding in him about how she was feeling although
 he knew she was disappointed about the outcome of the surgery.
She is quite concerned and getting a flight up here to see her.
He is for inpatient hospitalization if we believe that is the
appropriate course of action although said that he would be
comfortable bringing her home to ___ because he would be with her
 "at all times" and help to get her help."

 
Past Medical History:
Past psychiatric history:
 Seen at ___ the day prior to ED. Otherwise denies
prior psychiatric diagnoses, denies prior psychiatric
hospitalizations, denies current treaters and treatment, denies
medications or ECT trials, denies prior SA or SIB, denies harm 
to
others, denies any access to weapons or firearms.

Past medical history: Surgery for bilateral lower extremity
compartment syndrome 
 
Social History:
___
Family History:
 Denies any diagnoses or SAs in her family. Denies any substance
abuse in her family history.

 
Physical Exam:
 VS:  BP: 114/77  HR: 73  temp: 97.3  resp: 18  O2 sat: 100% RA  


General:College-aged female in NAD.  Appears stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: Full range of motion, strength ___ bilaterally.
Skin: No rashes, abrasions, scars, or lesions. 
Neurological:
Cranial Nerves:
-Pupils symmetry and responsiveness to light and accommodation:
PERRLA
-Visual fields: full to confrontation
-EOM: full
-Facial sensation to light touch in all 3 divisions: equal
-Facial symmetry on eye closure and smile: symmetric
-Hearing bilaterally to rubbing fingers: normal
-Phonation: normal
-Shoulder shrug: intact
-Tongue: midline
Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Coordination:
Normal on finger to nose test. Sensation: Intact to light touch
throughout. 
Gait: Steady. Normal stance and posture. No truncal ataxia.

Cognition: 
Wakefulness/alertness: awake and alert
Attention: intact to interview, able to spell "world" backwards
(makes errors on serial 7s)
Orientation: oriented to person, place, situation, month/year
though not day. 
Memory: intact to recent and past history
Fund of knowledge: consistent with education
Calculations: correctly states 7 quarters in $1.75
Abstraction: apple/orange = "fruits", appropriately interprets
book/cover proverb
Speech: normal rate, volume, and tone
Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
Appearance: No apparent distress, appears stated age, well
groomed, appropriately dressed
Behavior: Calm, cooperative, pleasant, appropriate eye contact,
no psychomotor agitation or retardation noted
Mood and Affect: "Anxious" /congruent with mood, at times 
tearful
Thought Process: linear, coherent, goal-oriented. No LOA.
Thought Content: denies SI at this time though does recall 
having
expressed SI/w plan while intoxicated, denies HI/AH/VH, no
evidence of delusions or paranoia
Judgment and Insight: limited/limited

 
Pertinent Results:
___ 07:15PM   ALT(SGPT)-16 AST(SGOT)-40 ALK PHOS-84 TOT 
BILI-0.8
___ 07:15PM   VIT B12-___*
___ 07:15PM   TSH-3.5
___ 07:15PM   HCG-<5
___ 12:19AM   GLUCOSE-96 UREA N-9 CREAT-0.8 SODIUM-141 
POTASSIUM-4.7 CHLORIDE-103 TOTAL CO2-23 ANION GAP-20
___ 12:19AM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:19AM   WBC-9.5 RBC-4.19 HGB-13.7 HCT-38.2 MCV-91 
MCH-32.7* MCHC-35.9 RDW-11.9 RDWSD-39.2
___ 12:19AM   NEUTS-78.6* LYMPHS-15.1* MONOS-5.7 EOS-0.1* 
BASOS-0.2 IM ___ AbsNeut-7.47* AbsLymp-1.44 AbsMono-0.54 
AbsEos-0.01* AbsBaso-0.02
___ 10:35PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 10:35PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
 
Brief Hospital Course:
HOSPITAL COURSE SECTION OF DISCHARGE SUMMARY
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. She was also placed on q15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) Ms. ___ is a ___ y/o BU student who lives on campus with 
a
roommate, with no known past psychiatric or medical history, who
was brought to the BI ED by her friends while intoxicated on
alcohol for concerns of depression and SI. In the ED, she 
received a chemical and physical restraint due to trying to 
elope. 
On admission, the patient was pleasant, calm and cooperative, 
and endorsed feeling symptoms of depression including depressed 
mood, poor sleep and poor appetite for several weeks prior to 
admission, though denied anhedonia and denied SI. She attributed 
some of her depression to her recent bilateral compartment 
syndrome and fasciotomies at ___ limiting her ability to 
participate in rugby, which had been a big part of her life. 
Starting an antidepressant was discussed with the patient, but 
ultimately was decided against as it was felt that the patient 
would significantly benefit from starting psychotherapy without 
the use of medication. Individual, group, and milieu therapy 
were provided during her admission. At the time of discharge, 
the patient was future oriented and denied suicidal ideation or 
plan. 

3. SUBSTANCE USE DISORDERS:
#)The patient was counseled regarding alcohol use and advised to 
decrease or stop her alcohol consumption. 

4. MEDICAL
#) No acute medical issues arose while the patient was on the 
unit

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. She was visible on the milieu, 
often seen interaction with other patients. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
The patient's father met with the team on admission and spoke 
with ___ regarding discharge planning.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon static factors 
including Caucasian race, age, single status, and recent medical 
illness (bilateral compartment syndrome requiring fasciotomies), 
and modifiable risk factors including suicidal ideation with 
plan, no established outpatient treaters, and active alcohol 
use/intoxication.  The modifiable risk factors were addressed 
during this hospitalization by referring the patient to 
outpatient providers as well as providing individual and group 
psychotherapy and counseling regarding alcohol use. Finally, the 
patient is being discharged with many protective risk factors, 
including future-oriented viewpoint, sense of responsibility to 
family, lack of suicidal ideation at the time of discharge, and 
strong social supports. Based on the totality of our assessment 
at this time, the patient is not at an acutely elevated risk of 
self-harm nor danger to others. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment disorder with depressed mood

 
Discharge Condition:
Activity Status: Ambulatory - Independent.
Vitals: T 97.2  BP 117/78 HR 77 RR 16 O2 sat 98
Mental Status Exam:
Wakefulness/alertness: awake and alert
Attention: attentive to interview
Orientation: oriented to person, place, situation, time
Memory: intact to recent and past history
Fund of knowledge: consistent with level of education
Speech: normal rate, volume, and tone
Language: native ___ speaker, no paraphasic errors,
appropriate to conversation
Mental Status:
Appearance: No apparent distress, appears stated age, well
groomed, appropriately dressed
Behavior: Calm, cooperative, pleasant, appropriate eye contact,
no psychomotor agitation or retardation noted
Mood and Affect: 'Okay' /congruent with mood, at times somewhat 
tearful
Thought Process: linear, coherent, goal-oriented. No LOA.
Thought Content: denies SI at this time (though does recall 
having
expressed SI/w plan while intoxicated), denies HI/AH/VH, no
evidence of delusions or paranoia, is future-oriented
Judgment and Insight: fair/fair

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___